US05459267
A solution of 1,4-diazabicyclo[2.2.2]octane N-oxide (12.8 g, 0.1 mole), water (1.8 mL, 0.1 mole) and boron trifluoride (13.6 g, 0.2 mole) in acetonitrile (250 mL) was cooled to 8° C. and treated with a mixture of fluorine in nitrogen (10% V/V, 0.2 mole). The reaction was evaporated, the remaining solid washed with acetone and dried to afford 22 grams of 1-hydroxyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (68% yield).

reactant | 1,4-diazabicyclo[2.2.2]octane N-oxide | 0.1 mole, 12.8 g | N12CC[N+](CC1)(CC2)[O-] | C6H12N2O
reactant | water | 0.1 mole, 1.8 mL | O | H2O
reactant | boron trifluoride | 0.2 mole, 13.6 g | B(F)(F)F | BF3
reactant | fluorine | FF | F2
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 1-hydroxyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 22 grams, 68% yield | F[B-](F)(F)F.F[B-](F)(F)F.O[N+]12CC[N+](CC1)(CC2)F | InChI=1S/C6H13FN2O.2BF4/c7-8-1-4-9(10,5-2-8)6-3-8;2*2-1(3,4)5/h10H,1-6H2;;/q+2;2*-1
